### PR TITLE
[Merged by Bors] - feat: a `grw` tactic for rewriting using inequalities

### PR DESCRIPTION
**Pull request by sebzim4500**
Co-authored-by: @hrmacbeth, @digama0  

---

- [x] depends on: #8796
```lean
example (x y z w : ℝ) (h₁ : x < z) (h₂ : w ≤ y + 4) (h₃ : Real.exp z < 5 * w) :
    Real.exp x < 5 * (y + 4) := by
  grw [h₁, ← h₂]
  exact h₃
```

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/GRW.lean [hunk 1]
```diff
@@ -0,0 +1,114 @@
...
+    let rule := rules[i * 2]!
+    let sep  := rules.getD (i * 2 + 1) Syntax.missing
+    let state ← get
+    -- show rule state up to (incl.) next `,`
+    let newState ← withTacticInfoContext (mkNullNode #[rule, sep]) do
+      -- show errors on rule
+      let s ← withRef rule do
+        let symm := !rule[0].isNone
+        let term := rule[1]
+        -- let processId (id : Syntax) : TacticM Unit := do
```
Comment (semorrison) [inline Mathlib/Tactic/GRW.lean:58]:
```suggestion
        -- let processId (id : Syntax) : TacticM Unit := do
```
remove?

File: Mathlib/Tactic/GRW/Lemmas.lean [hunk 2]
```diff
@@ -0,0 +1,43 @@
...
+
+@[grw]
+lemma rewrite_lt {α : Type} [Preorder α] {a b c d : α} (h₁ : a < b) (h₂ : c ≤ a) (h₃ : b ≤ d) :
+    c < d := lt_of_le_of_lt h₂ (lt_of_lt_of_le h₁ h₃)
+
+@[grw]
+lemma rewrite_mem {α : Type} {a : α} {X Y: Set α} (h₁ : a ∈ X) (h₂ : X ⊆ Y) : a ∈ Y := h₂ h₁
+
+@[grw]
+lemma rewrite_sub {α : Type} {X Y Z W: Set α} (h₁ : X ⊆ Y) (h₂ : Z ⊆ X) (h₃ : Y ⊆ W) :
```
Comment (semorrison) [inline Mathlib/Tactic/GRW/Lemmas.lean:35]:
```suggestion
lemma rewrite_sub {α : Type} {X Y Z W : Set α} (h₁ : X ⊆ Y) (h₂ : Z ⊆ X) (h₃ : Y ⊆ W) :
```
etc

File: Mathlib/Tactic/GRW/Lemmas.lean [hunk 3]
```diff
@@ -0,0 +1,43 @@
...
+The `grw` tactic starts by trying all lemmas with the `@[grw]` annotation. The first (explicit)
+argument should be related to the result type of the lemma via the rewrite. The other arguments
+will be automatically solved using the `gcongr` tactic.
+
+The `@[grw_weaken]` annotation is used to automically replace rules of the form `a < b`
+with `a ≤ b`.
+
+-/
+
+open Mathlib.Tactic.GRW
```
Comment (semorrison) [inline Mathlib/Tactic/GRW/Lemmas.lean:21]: These are only for internal use.
```suggestion
namespace Mathlib.Tactic.GRW
```

File: Mathlib/Tactic/GRW/Core.lean [hunk 4]
```diff
@@ -0,0 +1,197 @@
...
+  let weakRule ← weaken metaRule
+  let lemmas ← labelled `grw
+
+  let result ← mkFreshExprMVar newType
+
+  -- TODO surely this can be faster
+  for lem in lemmas do
+    let lemResult : Option (Expr × Array MVarId)
+        ← withTraceNode `GRW (λ _ ↦ return m!"trying lemma {lem}") do
+      let s ← saveState
```
Comment (semorrison) [inline Mathlib/Tactic/GRW/Core.lean:157]: Does `commitIfNoEx` do what you want here?

File: Mathlib/Tactic/GRW/Core.lean [hunk 5]
```diff
@@ -0,0 +1,197 @@
...
+      trace[GRW] "weakened to {← inferType result}"
+      return result
+    catch _ =>
+      s.restore
+
+  return rule
+
+/--
+Use the relation `rule` to rewrite `expr`
+-/
```
Comment (semorrison) [inline Mathlib/Tactic/GRW/Core.lean:141]: Could you add some explanation of the `isTarget` parameter?

File: Mathlib/Tactic/GRW.lean [hunk 6]
```diff
@@ -0,0 +1,114 @@
...
+      let ⟨_, newGoal, subgoals⟩ ← (withRWRulesSeqState tok rules fun rev syn ↦ do
+        let ⟨currentTarget, subgoals⟩ ← get
+        let ⟨newGoal, newSubgoals⟩ ← currentTarget.withContext do
+          let rulePrf ← elabTerm syn none
+          currentTarget.grw rulePrf rev
+        set (⟨newGoal, subgoals.append newSubgoals⟩ : MVarId × Array MVarId)
+      ).run (⟨← getMainGoal, #[]⟩ : MVarId × Array MVarId)
+      try newGoal.withContext $ withReducible newGoal.applyRfl
+      catch _ => pure ⟨⟩
+      -- We can't use replaceMainGoal, since withTacticInfoContext prunes the solves goals so there
```
Comment (semorrison) [inline Mathlib/Tactic/GRW.lean:108]:
```suggestion
      -- We can't use replaceMainGoal, since withTacticInfoContext prunes the solved goals so there
```

File: Mathlib/Tactic/GRW.lean [hunk 7]
```diff
@@ -0,0 +1,114 @@
...
+              $ grwHypothesis (Expr.fvar fvar) rulePrf rev
+          let name ← fvar.getUserName
+          let ⟨newFvar, goal', _⟩ ← goal.assertAfter fvar name newType newHyp
+          let newGoal ← goal'.clear fvar
+          set (⟨newGoal, subgoals ++ newSubgoals, newFvar⟩ : MVarId × Array MVarId × FVarId)
+      ).run (⟨← getMainGoal, #[], fvar⟩ : MVarId × Array MVarId × FVarId)
+      let newGoals := subgoals ++ #[newGoal] ++ (← getGoals)
+      setGoals newGoals.toList
+      pruneSolvedGoals
+    )
```
Comment (semorrison) [inline Mathlib/Tactic/GRW.lean:97]: I would recommend splitting out the `atLocal` and `atTarget` code into separate declarations (possibly at `MetaM` rather than `TacticM`). It will be more comprehensible, and down the track someone will probably want the MetaM plumbing available for use inside another tactic.

**Comment by semorrison** [comment]
The PR description here says it is still a work in progress. Do you want to update that?

**Comment by sebzim4500** [comment]
> The PR description here says it is still a work in progress. Do you want to update that?

Yes. There are still features I want to add in the future but this PR is mergeable in my opinion.

**Comment by digama0** [comment]
Hi @sebzim4500 , today @hrmacbeth and I sat down and reviewed this code, resulting in some modifications and improvements in 329cbf51 that I have taken the liberty of pushing directly to the branch. Don't hesitate to speak up if you disagree or want clarification on the changes here. Summary of changes: 

* Use `IO.Ref` for persisting state through `withRwRulesSeq` instead of adding a `StateT` variant of the function
* Make `grw` transparently call `rw` when the hypothesis is an equality
  * thus `withRwRulesSeqState` becomes redundant and can be removed
* Inline/remove `grwHyp` into `grwAtLocal` and `grw` into `grwAtTarget`, rename `runGrw` to `grw`
* To avoid making too many assumptions about the inputs, `grw` core does not change any mvars, instead it returns a proof whose type is an implication in the specified direction.
* Interchange `withRwRulesSeq` and `withLocation`; this means `grw [a, b] at h1 h2` is equivalent to `grw [a] at h1 h2; grw [b] at h1 h2` instead of `grw [a, b] at h1; grw [a, b] at h2`, which matches how `rw` works and also makes the intermediate states between commas more sensible. (Previously using `grw [a, b] at *` would generate a large number of goals in the intermediate states because the same syntax is being tagged many times.)
* Use tactic state for persisting information rather than an `IO.Ref` or `StateT`. Besides being simpler to implement, this is also consistent with the `rw` tactic.
  * Downside: we do not track the fvar of the hypothesis being rewritten, so in theory a different hypothesis with the same name can jump in halfway through a rewrite chain (although examples that do this are extremely contrived)
  * Downside: Side goals come out in reverse order, i.e. we have `main goal, side goals for b, side goals for a` when doing `grw [a, b]`
  * Both of these are consistent with the `rw` tactic though, which we considered more important.
* Pass a template to `gcongr`, to improve the speed (and also catch some bugs).
* `dischargeSideGoal` is the same discharger used in `gcongr` itself, this is made the default in #8796
* `dischargeMainGoal` is replaced by `gcongrForward` with the specified `rule`
  * `gcongrForward` overlaps significantly with the `grw_weaken` attribute; the two have been merged and `grw_weaken` removed.
* The `progress` return value of `gcongr` is ignored - we don't really care if `gcongr` does nothing because it is being used on subgoals
* remove unnecessary partial and private from definitions
* add more docs
* Added some more tests
* reduced imports of test file

@hrmacbeth will push some more test files shortly but otherwise we support merging it. There are still some TODOs remaining, but they can be addressed in a follow-up PR:

* The `grw` lemmas are stored in a big bag and all applied to the goal. This should be replaced with some discrimination tree indexing or a lookup on the head symbol like in `gcongr`, this implementation does not scale and will likely become a problem if this tactic starts getting used widely (which we expect to happen, it's a very useful tactic).
* The attribute is not checked at application time, it is just a `LabelAttr`. We would like it to enforce some structure, both to make it easier for the user to apply the tag correctly, and also to improve the performance and precision of the tactic itself; currently it has some hacks to guess the structure of the lemma but these can be easily fooled.

File: Mathlib/Tactic/GRW.lean [hunk 8]
```diff
@@ -0,0 +1,74 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Sebastian Zimmer, Mario Carneiro, Heather Macbeth
+-/
+import Mathlib.Lean.Meta
+import Mathlib.Lean.Expr
+import Mathlib.Lean.Elab.Tactic.Basic
+import Lean.Parser.Tactic
+import Lean.Meta.Tactic
+import Std.Tactic.LabelAttr
+import Mathlib.Tactic.GRW.Core
```
Comment (hrmacbeth) [inline Mathlib/Tactic/GRW.lean:12]:
```suggestion
```

File: Mathlib/Tactic/GRW/Core.lean [hunk 9]
```diff
@@ -0,0 +1,179 @@
...
+initialize ext : LabelExtension ← (
+  let descr := "A lemma describing how to convert the first argument into the target type, possibly
+introducing side goals. These side goals will be solved with `gcongr`"
+  let grw := `grw
+  registerLabelAttr grw descr grw)
+
+open GCongr
+
+/-- Given `relationType := R a b`, returns `(a, b)` -/
```
Comment (eric-wieser) [inline Mathlib/Tactic/GRW/Core.lean:54]: Should this be counting explicit arguments? I'm considering a relation which has some trailing typeclass arguments (as an extreme case, `MonoidHom`!)

File: Mathlib/Tactic/GRW/Core.lean [hunk 10]
```diff
@@ -0,0 +1,179 @@
...
+/-- Try to discharge the goal `goal` using `gcongr` using the provided `template` and using only
+`rule` for discharging the main subgoals. -/
+def useRule (template rule : Expr) (goal : MVarId) : MetaM (Array MVarId) := do
+  let template ← instantiateMVars template
+  try
+    if template.hasExprMVar then failure
+    goal.applyRfl
+    trace[GRW] "used reflexivity"
+    return #[]
+  catch _ => pure ()
```
Comment (eric-wieser) [inline Mathlib/Tactic/GRW/Core.lean:91]: This is going to catch all sorts of unwanted things like timeouts, isn't it?

File: Mathlib/Tactic/GRW/Lemmas.lean [hunk 11]
```diff
@@ -0,0 +1,40 @@
...
+    (H : a ∈ X) (hX : X ⊆ X') : a ∈ X' := hX H
+
+@[grw] lemma rewrite_sub {α : Type*} {X Y X' Y' : Set α} (H : X ⊆ Y) (hX : X' ⊆ X) (hY : Y ⊆ Y') :
+    X' ⊆ Y' := fun _ hx ↦ hY (H (hX hx))
+
+@[grw] lemma rewrite_ssub {α : Type*} {X Y X' Y' : Set α} (H : X ⊂ Y) (hX : X' ⊆ X) (hY : Y ⊆ Y') :
+    X' ⊂ Y' := lt_of_le_of_lt hX (lt_of_lt_of_le H hY)
+
+@[grw] lemma rewrite_bddAbove {α : Type*} [Preorder α] {s s' : Set α}
+    (H : BddAbove s) (hs : s' ⊆ s) : BddAbove s' := H.imp fun _ hc _ hx => hc (hs hx)
```
Comment (eric-wieser) [inline Mathlib/Tactic/GRW/Lemmas.lean:37]: I would assume this can be proven with `BddAbove.mono`? Or is that not imported?

File: Mathlib/Tactic/GRW/Core.lean (hunk 10 above)
Comment (eric-wieser) [reply Mathlib/Tactic/GRW/Core.lean:91]: It looks like there's no good answer here (though maybe @digama0 knows of one).

Comment (digama0) [reply Mathlib/Tactic/GRW/Core.lean:91]: this is not really something that should be solved here, it's endemic to the whole tactic infrastructure. Maybe we could change the `tryCatch` implementation for `TacticM` to not catch timeouts and other abort-level commands?

Comment (eric-wieser) [reply Mathlib/Tactic/GRW/Core.lean:91]: I think that must be a recent change: thanks for digging!

File: Mathlib/Tactic/GRW/Core.lean [hunk 12]
```diff
@@ -0,0 +1,179 @@
...
+      catch ex => do
+        trace[GRW] "error in lemma {lem}: {ex.toMessageData}"
+        pure none
+
+      if let some (lemExpr, metas) := lemResult then
+        let metas ← metas.filterM fun x => not <$> x.mvarId!.isAssigned
+        let args := template.getAppArgs
+        -- HACK: we are assuming the side goals of the grw lemma come in the same order
+        -- as they appear in the function, and all the fixed args (e.g. type, instances)
+        -- come before the ones to rewrite
```
Comment (Vierkantor) [inline Mathlib/Tactic/GRW/Core.lean:161]: I'm not completely sure what you mean by "as they appear in the function" here. What are the effects of violating this assumption? Can it be checked when tagging a lemma as `@[grw]`?

File: Mathlib/Tactic/GRW/Core.lean [hunk 13]
```diff
@@ -0,0 +1,179 @@
...
+    else
+      mkAppOptM ``cast #[expr, newExpr, eqProof]
+    return ⟨newExpr, proof, subgoals.toArray⟩
+  let rule := mkAppN rule ruleArgs
+  let (template, newExpr) ← getNewExpr rule rev oldExpr
+  let lemmas ← labelled `grw
+  let (lhsExpr, rhsExpr) := if isTarget then (newExpr, oldExpr) else (oldExpr, newExpr)
+
+  -- TODO surely this can be faster
+  for lem in lemmas do
```
[the remark this answers is not in the document]
Comment (digama0) [reply Mathlib/Tactic/GRW/Core.lean:136]: @hrmacbeth already has a fixed version of the TODO at https://github.com/leanprover-community/mathlib4/commit/ef82c2de29ac2f582687c38f809f199ed3373698 , although it has not been merged with this PR yet.

File: Mathlib/Tactic/GRW/Core.lean (hunk 12 above)
Comment (digama0) [reply Mathlib/Tactic/GRW/Core.lean:161]: Yes, this was planned to be checked in the attribute. The [HM-grw-attribute](https://github.com/leanprover-community/mathlib4/commit/ef82c2de29ac2f582687c38f809f199ed3373698) branch implements that.

File: Mathlib/Tactic/GRW.lean [hunk 14]
```diff
@@ -0,0 +1,67 @@
...
+  exact h₁
+```
+
+If applied to a hypothesis or target of type `p` with rule of type `x ~ y` (where `~` is some
+relation) then the resulting type will be `p[x/y]`.
+
+If applied to the target then the tactic will attempt to close the goal with `rfl` after doing the
+rewriting.
+-/
+elab tok:"grw" rules:rwRuleSeq loc:(location)? : tactic => do
```
[the remark this answers is not in the document]
Comment (fpvandoorn) [reply Mathlib/Tactic/GRW.lean:59]: I believe `Data.Set.Basic` is "too heavy" to import in `Mathlib.Tactic.Common`?

**Comment by sebzim4500** [comment]
I'm coming back to this project now.

I've rebased this branch, made the requested changes and fixed the tests.

@hrmacbeth I see mentions of a separate branch that I don't think was ever merged into this one? Does that still exist? I realize it was a long time ago.

**Comment by fpvandoorn** [comment]
I would love to see this in Mathlib. Github has a feature that you can see all the branches a commit is part of, so maybe another mentioned branch is one of the 4 listed at the top of this page? https://github.com/leanprover-community/mathlib4/commit/fb88bd8b5dabdfd415c62dc6e1683f5db6668ae3

**Review by fpvandoorn — COMMENTED** [review]
I didn't look at the implementation yet, but here are some comments.

File: MathlibTest/GRW.lean
[the remark this answers is not in the document]
Comment (sebzim4500) [reply MathlibTest/GRW.lean:1]: I think this is only the case when you use it in a way where it doesn't end up in the final proof term. I don't think it has anything to do with the `grw` tactic, you can get the same behavior with e.g. the `rw` tactic.

It really only happens in tests because normally there'd be no reason to do rewrites in expressions which you throw away.

File: Mathlib/Tactic/GRW/Lemmas.lean [hunk 15]
```diff
@@ -0,0 +1,42 @@
...
+namespace Mathlib.Tactic.GRW
+
+@[grw] lemma rewrite_le {α : Type*} [Preorder α] {a b a' b' : α}
+    (H : a ≤ b) (ha : a' ≤ a) (hb : b ≤ b') : a' ≤ b' := le_trans ha (le_trans H hb)
+
+@[grw] lemma rewrite_lt {α : Type*} [Preorder α] {a b a' b' : α}
+    (H : a < b) (ha : a' ≤ a) (hb : b ≤ b') : a' < b' := lt_of_le_of_lt ha (lt_of_lt_of_le H hb)
+
+@[grw] lemma rewrite_mem {α : Type*} {a : α} {X X' : Set α}
+    (H : a ∈ X) (hX : X ⊆ X') (_ : a = a) : a ∈ X' := hX H
```
[the remark this answers is not in the document]
Comment (fpvandoorn) [reply Mathlib/Tactic/GRW/Lemmas.lean:26]: It's possible that I didn't look closely enough and missed the error... In that case, use the `nolint` attribute.

File: Mathlib/Tactic/GRW/Lemmas.lean
[the remark this answers is not in the document]
Comment (sebzim4500) [reply Mathlib/Tactic/GRW/Lemmas.lean:1]: I tried to make it more flexible but it ended up being much slower.

Given I don't expect there to that many more of these lemmas than the ones already in this PR (and 99% of usage will probably just use the ones on < and <=) I don't think it's that big a deal.

File: MathlibTest/GRW.lean
[the remark this answers is not in the document]
Comment (fpvandoorn) [reply MathlibTest/GRW.lean:1]: Oh, I see. If that is the case, feel free to turn off the linter in the test file, with this remark.

[the remark this answers is not in the document]
Comment (sebzim4500) [reply MathlibTest/GRW.lean:1]: How do you disable a lint for an entire file and not just one definition?

[the remark this answers is not in the document]
Comment (fpvandoorn) [reply MathlibTest/GRW.lean:1]: `set_option.linter.unused_variable false` (or something similar) near the top.

**Review by fpvandoorn — COMMENTED** [review]
Sorry for the long delay in reviewing.

LGTM. Let's get this PR in soon. I'm basically happy to delegate it now, but maybe you can look at my new comments and
* I believe there are some old review unresolved/unanswered comments, could you take another look at those? (feel free to leave a `todo` in the file if it's not easy)
* Please also merge master

Ping me if there is ever again no comment on this PR for more than 3 days and I'll merge it.

**Comment by JovanGerb** [comment]
I have a suggestion for refactoring the code:
- We can generalize `gcongr` to also be able to deal with the implication relation (`· → ·`). We need to teach this to the function that interprets an expression as an application of a relation. And it may require a separate `@[gcongr_imp]` for tagging `gcongr` lemmas about the `· → ·` relation.
- Then `@[gcongr_imp]` is a replacement for `@[grw]`.
- This should make the implementation a lot shorter, because we can call `gcongr` directly on the goal `newExpr → oldExpr` or `oldExpr → newExpr`.

And as a bonus, we can gain the ability to rewrite using implications.

**Comment by JLimperg** [comment]
A student of mine, @FWuermse, has implemented [another `grw` tactic](https://github.com/FWuermse/grw). This one copies the Rocq approach to generalised rewriting, described in [this paper](https://jfr.unibo.it/article/view/1574), including various optimisations from the Rocq codebase that make the algorithm practical. It seems to me like the Rocq algorithm is much more general than the one proposed here.

Florian's tactic is maybe 80% done, with some minor functionality missing and probably some cleanup required. It's not clear how much time Florian will be able to put into it, and I'm very busy these days, so I don't want to promise anything and I don't want to scupper this PR. But it might be worth thinking about what should happen if Florian's tactic ever becomes ready for Mathlib.

**Comment by fpvandoorn** [comment]
What are examples of the Rocq-version that this one cannot do?

**Comment by JovanGerb** [comment]
Note that I've opened the PR #25534, which generalizes `gcongr` as I mentioned above

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Order/RelClasses.lean [hunk 16]
```diff
@@ -593,12 +593,20 @@ alias HasSubset.Subset.not_ssubset := not_ssubset_of_subset
...
+@[gcongr]
+theorem ssubset_of_subset_of_ssubset' [IsTrans α (· ⊆ ·)] (h₁ : b ⊆ a) (h₂ : c ⊂ b) : c ⊂ a :=
+  (h₂.subset.trans h₁).ssubset_of_not_subset fun h => h₂.not_subset <| h₁.trans h
+
 theorem ssubset_of_ssubset_of_subset [IsTrans α (· ⊆ ·)] (h₁ : a ⊂ b) (h₂ : b ⊆ c) : a ⊂ c :=
   (h₁.subset.trans h₂).ssubset_of_not_subset fun h => h₁.not_subset <| h₂.trans h
 
+theorem ssubset_of_ssubset_of_subset' [IsTrans α (· ⊆ ·)] (h₁ : b ⊂ a) (h₂ : c ⊆ b) : c ⊂ a :=
+  (h₂.trans h₁.subset).ssubset_of_not_subset fun h => h₁.not_subset <| h.trans h₂
+
```
Comment (JovanGerb) [inline Mathlib/Order/RelClasses.lean]: These extra lemmas will be added anyways when we get the `@[to_dual]` attribute.

**Comment by fpvandoorn** [comment]
Thanks to the 4 authors for writing this!

@sebzim4500 We reviewers dropped the ball on this one, sorry for the review being so slow.

@PatrickMassot Did I understand correctly that you wrote an original version of this? If so, maybe add yourself to the authors if appropriate?

bors merge

**Comment by PatrickMassot** [comment]
I indeed wrote the first version but I don't think any of it survived in today's code.
